US04992433
To a stirred mixture of 7 parts of ethyl 4-[[1-(6-chloro-3-pyridazinyl)-4-hydroxy-4-piperidinyl]methoxy]benzoate and 150 parts of ethyl acetate were added dropwise 8.4 parts of thionyl chloride. Upon complete addition, stirring was continued first overnight at room temperature and then for 1 hour at 65° C. The reaction mixture was evaporated and the residue was taken up in water. The whole was treated with concentrated ammonium hydroxide and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (99:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 1.8 parts (26.7%) of ethyl 4-[[1-(6-chloro-3-pyridazinyl)-1,2,3,6-tetrahydro-4-pyridinyl]methoxy]benzoate; mp. 161.7° C. (comp. 165).

reactant | ethyl 4-[[1-(6-chloro-3-pyridazinyl)-4-hydroxy-4-piperidinyl]methoxy]benzoate | ClC1=CC=C(N=N1)N1CCC(CC1)(O)COC1=CC=C(C(=O)OCC)C=C1 | C19H22ClN3O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[[1-(6-chloro-3-pyridazinyl)-1,2,3,6-tetrahydro-4-pyridinyl]methoxy]benzoate | 26.7% | ClC1=CC=C(N=N1)N1CCC(=CC1)COC1=CC=C(C(=O)OCC)C=C1 | C19H20ClN3O3
